US07482350B2
Step 3. Preparation of 2-(4-{2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-yl}piperazin-1-yl)acetamide
A mixture of 2-{4-[2-chloro-5-(5-isopropyl-2-methyl-phenoxymethyl)-6-methyl-pyrimidin-4-yl]-piperazin-1-yl}-acetamide (20 mg, 0.05 mmol), 2,6-dimethylphenylboronic acid (21 mg, 0.14 mmol) and 2 M sodium carbonate (0.14 mL, 0.28 mmol) in dioxane (1 mL) is degassed with bubbling argon for 20 min. Pd(PPh3)4 (2.9 mg, 5 mol %) is added and the reaction mixture is heated at 100° C. under nitrogen with magnetic stirring. After 18 h, the reaction mixture is partitioned between EtOAc (10 mL) and water (2 mL), the organic layer is separated, washed with brine (2 mL), dried over sodium sulfate, filtered and evaporated at reduced pressure to obtain a dark oil. Purification on silica gel (3% MeOH/CH2Cl2 0.1% NH4OH) provides the title compound as a colorless film. LC/MS (Method 3), M+H=502.3, Rt=2.43 min.; 1H NMR (CDCl3) δ=7.07-7.19 (m, 4H), 6.82 (m, 2H), 5.44 (br, s, 1H), 4.97 (s, 2H), 3.57 (br, s, 4H), 3.02 (s, 2H), 2.91 (m, 1H), 2.62 (m, 4H) 2.56 (s, 3H), 2.22 (s, 3H), 2.16 (s, 6H), 1.28 (d, 6H).

reactant | 2-{4-[2-chloro-5-(5-isopropyl-2-methyl-phenoxymethyl)-6-methyl-pyrimidin-4-yl]-piperazin-1-yl}-acetamide | 0.05 mmol, 20 mg | ClC1=NC(=C(C(=N1)N1CCN(CC1)CC(=O)N)COC1=C(C=CC(=C1)C(C)C)C)C | C22H30ClN5O2
reactant | 2,6-dimethylphenylboronic acid | 0.14 mmol, 21 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 0.28 mmol, 2 M, 0.14 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(4-{2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidin-4-yl}piperazin-1-yl)acetamide | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)N1CCN(CC1)CC(=O)N)COC1=C(C=CC(=C1)C(C)C)C)C | C30H39N5O2
